US08686005B2
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1H-1,3,6-triaza-s-indacene-5,7-dione:
To a solution of 5-amino-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-6-nitro-isoindole-1,3-dione (40 mg, 0.12 mmol) in THF (6 mL) was added Raney Ni in H2O (1 mL) and cyclohexa-1,4-diene (800 μL). After it was stirred at the room temperature for 30 min, the reaction mixture was loaded directly on the top of a column and washed with CH2Cl2/MeOH/28% aqueous NH4OH (90:10:1). The residue obtained from evaporation of the wash was mixed with 4-iodo-2-methoxynicotinicaldehyde (34 mg, 0.13 mmol) and AcOH (0.5 mL) in MeOH (10 mL). The mixture was stirred at the room temperature for 64 h, concentrated under reduced pressure, mixed with 4 M HCl/dioxane (8 mL) and H2O (0.6 mL), heated at 50° C. for 1.5 h, and concentrated under reduced pressure to give a crude, which was subjected to HPLC purification to furnish a fluorescent product in TFA salt form. (R)-1-Amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol (45 mg, 0.24 mmol) and Et3N (70 μL, 0.5 mmol) were added into the solution of this fluorescent product and the mixture was evaporated after 17.5 h of heating at 80° C. The residual crude was subjected to HPLC to afford the title compound in TFA salt form (7.86 mg, 9.2%). 1H NMR (DMSO-d6) δ 2.13 (s, 3H, CH3), 2.19 (s, 3H, CH3), 3.02-4.05 (16H), 4.15 (m, 1H), 5.35 (br s, 1H, OH), 5.53 (br s, 1H, OH), 6.23 (d, J=7 Hz, 1H), 6.84 (d, J=7 Hz, 1H), 6.92 (d, J=7 Hz, 1H), 6.98 (s, 1H), 7.39 (d, J=7 Hz, 1H), 7.65 (s, 1H), 8.11 (s, 1H), 9.78 (br s, 1H, NH), 10.94 (br s, 1H, NH), 11.30 (br s, 1H, NH); ESI-MS m/z 602.5 (MH+).

reactant | 5-amino-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-6-nitro-isoindole-1,3-dione | 0.12 mmol, 40 mg | NC=1C=C2C(N(C(C2=CC1[N+](=O)[O-])=O)N1CCN(CC1)CCO)=O | C14H17N5O5
reactant | AcOH | 0.5 mL | CC(=O)O | C2H4O2
reactant | (R)-1-Amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol | 0.24 mmol, 45 mg | NC[C@H](COC1=C(C=C(C=C1)C)C)O | C11H17NO2
reactant | Et3N | 0.5 mmol, 70 μL | CCN(CC)CC | C6H15N
reactant | THF | 6 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
solvent | cyclohexa-1,4-diene | 800 μL | C1=CCC=CC1 | C6H8
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1H-1,3,6-triaza-s-indacene-5,7-dione | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C=2NC3=CC=4C(N(C(C4C=C3N2)=O)N2CCN(CC2)CCO)=O)O)C=CC(=C1)C | C31H35N7O6
